US08198279B2
1-(3-tert-butyl-1-(6-methoxypyridin-3-yl)-1H-pyrazol-5-yl)-3-(4-(2-methyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)-2-(methylthio)phenyl)urea (AA-064)
Method F2 was used with 8-(4-amino-3-(methylthio)phenoxy)-2-methylpyrido[2,3-b]pyrazin-3(4H)-one and 5-(3-tert-butyl-5-isocyanato-1H-pyrazol-1-yl)-2-methoxypyridine to afford the title compound (33 mg, 35%) as a white powder.

reactant | 8-(4-amino-3-(methylthio)phenoxy)-2-methylpyrido[2,3-b]pyrazin-3(4H)-one | NC1=C(C=C(OC2=CC=NC=3NC(C(=NC32)C)=O)C=C1)SC | C15H14N4O2S
reactant | 5-(3-tert-butyl-5-isocyanato-1H-pyrazol-1-yl)-2-methoxypyridine | C(C)(C)(C)C1=NN(C(=C1)N=C=O)C=1C=CC(=NC1)OC | C14H16N4O2
product | 1-(3-tert-butyl-1-(6-methoxypyridin-3-yl)-1H-pyrazol-5-yl)-3-(4-(2-methyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)-2-(methylthio)phenyl)urea | 33 mg, 35% | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=C(C=C(C=C1)OC1=CC=NC=2NC(C(=NC21)C)=O)SC)C=2C=NC(=CC2)OC | C29H30N8O4S
